US04731361
To a mixture of 2-(2-t-butoxycarbonylaminothiazol-4-yl)-pentenoic acid (75 mg), triethylamine (0.041 ml), and dichloromethane (3 ml) is added dropwise methanesulfonyl chloride (0.02 ml) at -60° C. with stirring. After stirring at the same temperature for 5 hours, a solution of 7beta-amino-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid diphenylmethyl ester p-toluenesulphonate salt (153 mg) and N-methylmorpholine (0.05 ml) in dichloromethane (3 ml) is added dropwise to the mixture. After stirring for 3.5 hours, the mixture is quenched with diluted hydrochloric acid. The organic layer is separated, washed with water, dried, and concentrated. The residue is purified by silica gel column chromatography to give 7beta-[(Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-pentenoyl]amino-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid diphenylmethyl ester (155 mg).

reactant | 2-(2-t-butoxycarbonylaminothiazol-4-yl)-pentenoic acid | 75 mg | C(C)(C)(C)OC(=O)NC=1SC=C(N1)C(C(=O)O)=CCC | C13H18N2O4S
reactant | methanesulfonyl chloride | 0.02 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 7beta-amino-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid diphenylmethyl ester p-toluenesulphonate salt | 153 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C.C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2N)=O)COC(N)=O
reactant | N-methylmorpholine | 0.05 ml | CN1CCOCC1 | C5H11NO
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | triethylamine | 0.041 ml | C(C)N(CC)CC | C6H15N
product | 7beta-[(Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-pentenoyl]amino-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid diphenylmethyl ester | 155 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2NC(\C(=C/CC)\C=2N=C(SC2)NC(=O)OC(C)(C)C)=O)=O)COC(N)=O | C35H37N5O8S2
